US06455572B1
5-Benzyloxy-6-methoxy-3,4-dihydro-2H-naphthalen-1-one
Using a procedure analogous to Example 7 from 4.5 g (0.024 mole) of 5-hydroxy-6-methoxy-1-tetralone, 5.4 g (0.031 mole) of benzyl bromide and 10 g (0.072 mole of K2CO3 in 100 ml of acetone), the title product was obtained (5.13 g) as a white solid by crystallization with ether, mp. 90° C.

reactant | 5-hydroxy-6-methoxy-1-tetralone | 0.024 mole, 4.5 g | OC1=C2CCCC(C2=CC=C1OC)=O | C11H12O3
reactant | benzyl bromide | 0.031 mole, 5.4 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 0.072 mole | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 5-Benzyloxy-6-methoxy-3,4-dihydro-2H-naphthalen-1-one | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1OC)=O | C18H18O3
